US08754089B2
2-(1-Aminoethyl)-6-methyl-3-(pyridin-2-yl)-4H-pyrido[1,2-a]pyrimidin-4-one
To a suspension of 2-(1-(6-methyl-4-oxo-3-(pyridin-2-yl)-4H-pyrido[1,2-a]pyrimidin-2-yl)ethyl)isoindoline-1,3-dione (0.934 g, 2.276 mmol) in EtOH (45.5 mL) was added hydrazine, monohydrate (1.104 mL, 22.76 mmol), and the mixture was stirred under reflux. After 1 h, the mixture was cooled to rt and the precipitate was filtered and washed with EtOAc (50 mL×2). The filtrate was concd under reduced pressure, redissolved in EtOAc (50 mL) and water (50 mL). The aq layer was extracted with EtOAc (50 mL×1). The combined organic layers were treated with 2M aq HCl (50 mL). The separated aq layer was washed with EtOAc (50 mL×2) to remove organic impurities and then basified to ˜pH 13 with 10 N NaOH (20 mL), and extracted with EtOAc (50 mL×3). The combined organic layers were washed with water (100 mL×1), brine (100 mL×1), and dried over MgSO4, filtered, and concd under reduced pressure to give the desired product as a yellow syrupy solid. The combined aq layers still contained the desired product. The combined aq layers were satd with NaCl and extracted with DCM (100 mL×2). The organic layers were combined with the above yellow syrupy solid, dried over MgSO4, filtered, and concd under reduced pressure to give 2-(1-amino-ethyl)-6-methyl-3-(pyridin-2-yl)-4H-pyrido[1,2-a]pyrimidin-4-one as a yellow foamy solid: 1H NMR (400 MHz, DMSO-d6) δ ppm 8.64 (1 H, ddd, J=4.9, 2.0, 1.0 Hz), 7.85 (1 H, td, J=7.7, 1.9 Hz), 7.67 (1 H, dd, J=9.0, 6.8 Hz), 7.54 (1 H, dt, J=7.8, 1.1 Hz), 7.44 (1 H, ddd, J=8.9, 1.4, 0.7 Hz), 7.35 (1 H, ddd, J=7.6, 4.9, 1.2 Hz), 6.89-6.95 (1 H, m), 3.70 (1 H, q, J=6.7 Hz), 2.91 (3 H, s), 1.88 (2 H, br. s.), 1.19 (3 H, d, J=6.7 Hz); Mass Spectrum (ESI) m/e=281.0 (M+1).

reactant | 2-(1-(6-methyl-4-oxo-3-(pyridin-2-yl)-4H-pyrido[1,2-a]pyrimidin-2-yl)ethyl)isoindoline-1,3-dione | 2.276 mmol, 0.934 g | CC1=CC=CC=2N1C(C(=C(N2)C(C)N2C(C1=CC=CC=C1C2=O)=O)C2=NC=CC=C2)=O | C24H18N4O3
reactant | hydrazine, monohydrate | 22.76 mmol, 1.104 mL | O.NN
solvent | EtOH | 45.5 mL | CCO | C2H6O
product | 2-(1-Aminoethyl)-6-methyl-3-(pyridin-2-yl)-4H-pyrido[1,2-a]pyrimidin-4-one | NC(C)C=1N=C2N(C(C1C1=NC=CC=C1)=O)C(=CC=C2)C | C16H16N4O
